US09212190B2
Synthesis of (2R)-3-[(3R)-12-[[4-(ethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1 (8),2(6),9,11-tetraen-3-yl]-2-hydroxypropanamide (I-139)
A solution of tert-butyl N-(4-[[(3R)-3-[(2R)-2-[(tert-butyldimethylsilyl)oxy]-2-carbamoylethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-ethylcarbamate (200 mg, 0.32 mmol, 1.00 equiv), hydrogen chloride(conc.) (0.3 mL) in dichloromethane (3 mL). The resulting solution was stirred for 1 h at 0° C. The resulting mixture was concentrated under vacuum. The crude product (200 mg) was purified by preparative HPLC under the following conditions (1#-Pre-HPLC-016(Waters)): column: SunFire Prep C18, 19*150 mm 5 um; mobile phase: water WITH 50 mL NH4CO3 and CH3CN (5.0% CH3CN up to 44.5.0% in 10 min, up to 95.0% in 2 min, down to 5.0% in 2 min); detector: 254/220 nm. 57.4 mg product was obtained. This resulted in 57.4 mg (44%) of (2R)-3-[(3R)-12-[[4-(ethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]-2-hydroxypropanamide as a white solid. MS: m/z 405 (M+H)+. 1H-NMR (300 MHz, CD3OD): δ 8.474 (1H, s), 5.25-5.22 (1H, m), 4.00-4.03 (1H, t), 3.61 (1H, m), 3.07-3.10 (1H, m), 2.94-2.98 (1H, m), 2.52-2.68 (4H, m), 2.18-2.39 (2H, m), 1.64-1.71 (3H, m), 1.26-1.34 (2H, m), 1.08-1.13 (3H, d).

reactant | tert-butyl N-(4-[[(3R)-3-[(2R)-2-[(tert-butyldimethylsilyl)oxy]-2-carbamoylethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-ethylcarbamate | 0.32 mmol, 200 mg, 1.00 equiv | [Si](C)(C)(C(C)(C)C)O[C@H](C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)CC)C(N)=O | C31H50N4O5SSi
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (2R)-3-[(3R)-12-[[4-(ethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1 (8),2(6),9,11-tetraen-3-yl]-2-hydroxypropanamide | 57.4 mg | C(C)NC1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)C[C@H](C(=O)N)O | C20H28N4O3S
